US05387684
Ethanol (5.5 ml) and 1N aqueous sodium hydroxide (1.38 ml) were added to methyl 2-butyl-4-chloro-1-[3-bromo-2-(2-ethoxycarbonylphenyl)-2H-indazol-5-yl]methyl-1H-imidazole-5-carboxylate (0.132 g, 0.230 mmol) as obtained in Example 8, and the mixture was stirred at room temperature for one day. The mixture was concentrated in an evaporator, and ion-exchanged water (5 ml) was added thereto, followed by stirring. Conc. hydrochloric acid was dropwise added thereto to adjust its pH to 5-6. The resultant solid was filtered off and washed three times with ion-exchanged water (2.5 ml). Two equivalent amounts of N/10 aqueous sodium hydroxide was added to dissolve the solid obtained by drying in vacuo at 37° C. for two days. Lyophilization of the solution afforded 0.104 g of disodium 1-[3-bromo-2-(2-carboxyphenyl)-2H-indazol-5-yl]methyl-2-butyl-4-chloro-1H-imidazole-5-carboxylate.

reactant | sodium hydroxide | 1N, 1.38 ml | [OH-].[Na+]
reactant | methyl 2-butyl-4-chloro-1-[3-bromo-2-(2-ethoxycarbonylphenyl)-2H-indazol-5-yl]methyl-1H-imidazole-5-carboxylate | 0.230 mmol, 0.132 g | C(CCC)C=1N(C(=C(N1)Cl)C(=O)OC)CC1=CC2=C(N(N=C2C=C1)C1=C(C=CC=C1)C(=O)OCC)Br | C26H26BrClN4O4
solvent | Ethanol | 5.5 ml | C(C)O | C2H6O
product | disodium 1-[3-bromo-2-(2-carboxyphenyl)-2H-indazol-5-yl]methyl-2-butyl-4-chloro-1H-imidazole-5-carboxylate | 0.104 g | BrC=1N(N=C2C=CC(=CC12)CN1C(=NC(=C1C(=O)[O-])Cl)CCCC)C1=C(C=CC=C1)C(=O)O.[Na+].[Na+].BrC=1N(N=C2C=CC(=CC12)CN1C(=NC(=C1C(=O)[O-])Cl)CCCC)C1=C(C=CC=C1)C(=O)O | InChI=1S/2C23H20BrClN4O4.2Na/c2*1-2-3-8-18-26-21(25)19(23(32)33)28(18)12-13-9-10-16-15(11-13)20(24)29(27-16)17-7-5-4-6-14(17)22(30)31;;/h2*4-7,9-11H,2-3,8,12H2,1H3,(H,30,31)(H,32,33);;/q;;2*+1/p-2
